US07592373B2
3-(2-chloro-4-trifluoromethylphenyl)propynoic acid-[4-(2-[1.2.4]triazol-4-ylethoxy)phenyl]amide
Prepared analogously to Example 2.3.f. from 4-(2-[1.2.4]triazol-4-ylethoxy)phenylamine and (2-chloro-4-trifluoromethylphenyl)propynoic acid. Yield: 51 mg (39.4% of theory); melting point: 223° C.-227° C.; C20H14ClF3N4O2 (M=434.80); calc.: molecular ion peak (M+H)+: 435/437; found: molecular ion peak (M+H)+: 435/437; Rf value: 0.31 (silica gel, dichloromethane/methanol (9:1)).

reactant | 4-(2-[1.2.4]triazol-4-ylethoxy)phenylamine | N=1N=CN(C1)CCOC1=CC=C(C=C1)N | C10H12N4O
reactant | (2-chloro-4-trifluoromethylphenyl)propynoic acid | ClC1=C(C=CC(=C1)C(F)(F)F)C#CC(=O)O | C10H4ClF3O2
solvent | dichloromethane methanol | ClCCl.CO
product | 3-(2-chloro-4-trifluoromethylphenyl)propynoic acid-[4-(2-[1.2.4]triazol-4-ylethoxy)phenyl]amide | N=1N=CN(C1)CCOC1=CC=C(C=C1)NC(C#CC1=C(C=C(C=C1)C(F)(F)F)Cl)=O | C20H14ClF3N4O2
